US05866588
A solution of methyl-(E)-3-(6-[3-pyrrolidin-1-yl-{4-tolyl}-prop-1-enyl]-pyridin-2-yl)-propanoate (206 mg, 0.55 mmol, mixture of methyl and ethyl esters) in THF (5 ml) was cooled to -78° C. and treated under an inert atmosphere with DIBAL (1.65 ml of 1.0M solution in toluene, 1.65 mmol). The reaction was stirred for 4 hours at -78° C. and allowed to warm to room temperature. The reaction was quenched with water (2 ml) and the product extracted into DCM (×3). The organic extracts were combined, dried over magnesium sulphate, filtered and concentrated under reduced pressure to yield (E)-3-(6-[3-pyrrolidino-1-{4-tolyl}-prop-1-enyl]-pyridin-2-yl)-propanol as a pale brown gum (137 mg, 74%). 1H-NMR; δ (CDCl3), 7.42 (1H, t, J=8.3 Hz), 7.20 (2H, d, J=7.8 Hz), 7.09 (2H, d, J=9.6 Hz), 6.98 (2H, m), 6.73 (1H, d, J=7.6 Hz), 3.70 (2H, t, J=7.3 Hz), 3.18 (2H, d, J=6.9 Hz), 2.97 (2H, t, J=7.3 Hz), 2.52 (4H, bm), 2.39 (3H, s), 2.00 (2H, m) and 1.77 (4H, bm).

reactant | methyl-(E)-3-(6-[3-pyrrolidin-1-yl-{4-tolyl}-prop-1-enyl]-pyridin-2-yl)-propanoate | 0.55 mmol, 206 mg | COC(CCC1=NC(=CC=C1)\C=C\C(N1CCCC1)C1=CC=C(C=C1)C)=O | C23H28N2O2
reactant | DIBAL | 1.65 mmol, 1.0M, 1.65 ml | CC(C)C[AlH]CC(C)C
reactant | THF | 5 ml | C1CCOC1 | C4H8O
product | (E)-3-(6-[3-pyrrolidino-1-{4-tolyl}-prop-1-enyl]-pyridin-2-yl)-propanol | 137 mg, 74% | N1(CCCC1)C/C=C(\C1=CC=C(C=C1)C)/C1=CC=CC(=N1)CCCO | C22H28N2O
